US04486428
dl-5-Benzyloxy-4-ethoxycarbonylmethyl-4-hydroxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran
Zinc metal (13 g, 0.2 mole) is covered with a small amount of dimethoxymethane. The mixture is heated at reflux and a solution of 16.7 g (0.1 mole) ethyl bromoacetate in 75 ml of dimethoxymethane is added over 20 minutes. After refluxing for 30 minutes, the mixture is cooled to 0°-5° C. and 40.85 g (0.10 mole) dl-5-benzyloxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran-4-one is added dropwise. The mixture is stirred at 0°-5° C. for one hour, allowed to warm to room temperature and stirred overnight. Ammonium hydroxide, 25 ml, is added, the mixture extracted with ethyl ether and isolated as described in Part A above, to afford the desired product.

reactant | ethyl bromoacetate | 0.1 mole, 16.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | dl-5 benzyloxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran-4-one | 0.10 mole, 40.85 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C1=CC=CC=C1)OC1C(OC2=C(C1=O)C=CC(=C2)C(CCCCCC)(C)C)(C)C
reactant | Ammonium hydroxide | [OH-].[NH4+]
solvent | dimethoxymethane | 75 ml | COCOC | C3H8O2
catalyst | Zinc | 0.2 mole, 13 g | [Zn] | Zn
product | dl-5 Benzyloxy-4-ethoxycarbonylmethyl-4-hydroxy-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C1=CC=CC=C1)OC1C(OC2=C(C1(O)CC(=O)OCC)C=CC(=C2)C(CCCCCC)(C)C)(C)C | InChI=1S/C31H44O5.C18H34N4O2/c1-7-9-10-14-19-29(3,4)24-17-18-25-26(20-24)36-30(5,6)28(31(25,33)21-27(32)34-8-2)35-22-23-15-12-11-13-16-23;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h11-13,15-18,20,28,33H,7-10,14,19,21-22H2,1-6H3;6-7,14,20-23H,2-5,8-13,15,19H2,1H3
